US05444084
1.88 g of 3-(3-thienyl)benzaldehyde and 5.9 g of 3-methoxycarbonylphenyl(triphenyl)phosphonium bromide are added to a mixture of 60 ml of tetrahydrofuran and 6 ml of dimethylformamide, 0.48 g of 60% oily sodium hydride is added under ice cooling and stirring, and the mixture is stirred at room temperature for 6 hours. The reaction solution is neutralized with acetic acid, the solvent is distilled off under reduced pressure, and the residue is extracted with a system of water and methylene chloride. The organic layer is post-treated in a conventional manner, and the product is purified by silica gel column chromatography [Wako gel C-200, 60 g; hexane/ethyl acetate=10/1] to obtain 1.24 g (Z)-3-[2-[3-(3-thienyl)phenyl]ethenyl]benzoic acid methyl ester as a white crystalline solid.

reactant | 3-(3-thienyl)benzaldehyde | 1.88 g | S1C=C(C=C1)C=1C=C(C=O)C=CC1 | C11H8OS
reactant | 3-methoxycarbonylphenyl(triphenyl)phosphonium bromide | 5.9 g | [Br-].COC(=O)C=1C=C(C=CC1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
reactant | sodium hydride | 0.48 g | [H-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | (Z)-3-[2-[3-(3-thienyl)phenyl]ethenyl]benzoic acid methyl ester | 1.24 g | COC(C1=CC(=CC=C1)\C=C/C1=CC(=CC=C1)C1=CSC=C1)=O | C20H16O2S
